US07504508B2
To a solution of N-((2S,4R)-1-{4-[bis(methylsulfonyl)amino]benzoyl}-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-N-(4-chlorophenyl)acetamide (259 mg, 0.44 mmol) in tetrahydrofuran (5.0 mL) at room temperature was added 1.0 M sodium hydroxide (0.880 mL, 0.88 mmol). The reaction was stirred at room temperature for 2 days. The resulting reaction mixture was poured into a 1:1 mixture of water and saturated sodium bicarbonate (25 mL) and extracted with ethyl acetate (1×25 mL). The aqueous layer was neutralized via addition of 1N HCl to pH ˜8 and extracted with ethyl acetate (2×25 mL). The combined organic layers were washed once with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to afford N-(4-chlorophenyl)-N-((2S,4R)-2-methyl-1-{4-[(methylsulfonyl)amino]benzoyl}-1,2,3,4-tetrahydroquinolin-4-yl)acetamide (190 mg, 76%) as a light-yellow, foamy solid.

reactant | N-((2S,4R)-1-{4-[bis(methylsulfonyl)amino]benzoyl}-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-N-(4-chlorophenyl)acetamide | 0.44 mmol, 259 mg | CS(=O)(=O)N(C1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(C)=O)C2=CC=C(C=C2)Cl)C)C=C1)S(=O)(=O)C | C27H28ClN3O6S2
reactant | sodium hydroxide | 0.88 mmol, 1.0 M, 0.880 mL | [OH-].[Na+]
reactant | water | O | H2O
reactant | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | N-(4-chlorophenyl)-N-((2S,4R)-2-methyl-1-{4-[(methylsulfonyl)amino]benzoyl}-1,2,3,4-tetrahydroquinolin-4-yl)acetamide | 190 mg, 76% | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)NS(=O)(=O)C)=O)C | C26H26ClN3O4S
